US07186729B2
Step 3: 3-(4-Chloro-phenyl)-1-ethyl-1-pyrrolidin-3-yl-urea
A solution of 3-[3-(4-chloro-phenyl)-1-ethylureido]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.4 g, 1.08 mmol) in dichloromethane (5.0 ml) cooled at 0° C. was treated with trifluoroacetic acid (20%) and warmed to room temperature and stirred for 2 h. The reaction was concentrated in vacuo, diluted with ethyl acetate and free based with 10% aqueous sodium bicarbonate. The combined organics were dried over sodium sulfate. The product was used without any further purification. ESI-MS m/z: 268 (M+1), UV retention time: 1.02 min.

reactant | 3-[3-(4-chloro-phenyl)-1-ethylureido]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.08 mmol, 0.4 g | C(C)(C)(C)OC(=O)N1CC(CC1)N(C(=O)NC1=CC=C(C=C1)Cl)CC | C18H26ClN3O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
product | 3-(4-Chloro-phenyl)-1-ethyl-1-pyrrolidin-3-yl-urea | ClC1=CC=C(C=C1)NC(N(C1CNCC1)CC)=O | C13H18ClN3O
